US07662832B2
2,3-dimethyl-7-(4-vinylphenyl)-1H-pyrrolo[2,3-c]pyridine
A solution of 3-nitro-2-(4-vinylphenyl)pyridine (4.9 g, 21.6 mmol) prepared in Preparation 9 in anhydrous tetrahydrofuran (150 ml) was cooled to −78° C. and 1-methyl-1-propenyl magnesium bromide (0.5M in anhydrous tetrahydrofuran solution; 130 ml) was slowly added thereto. The reaction mixture was stirred for 1 hour at the same temperature, slowly warmed to room temperature, and then stirred overnight. 20% (w/v) ammonium chloride solution was added to the reaction mixture, which was then extracted with ethyl acetate. The reaction mixture was dried on anhydrous magnesium sulfate, filtered, and then concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography and then crystallized with ethyl ether to give 612 mg of the titled compound as a white solid.

reactant | 3-nitro-2-(4-vinylphenyl)pyridine | 21.6 mmol, 4.9 g | [N+](=O)([O-])C=1C(=NC=CC1)C1=CC=C(C=C1)C=C | C13H10N2O2
reactant | 1-methyl-1-propenyl magnesium bromide | 0.5M, 130 ml | CC(=CC)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2,3-dimethyl-7-(4-vinylphenyl)-1H-pyrrolo[2,3-c]pyridine | 612 mg | CC1=C(C=2C(=C(N=CC2)C2=CC=C(C=C2)C=C)N1)C | C17H16N2
